datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"ClCC1CC2CC[N+:21]1([H:20])CC2.Nc1ccc(S(=O)(=O)[N-:10]c2ccncn2)cc1>>ClCC1CC2CC[N:21]1CC2.Nc1ccc(S(=O)(=O)[N:10](c2ccncn2)[H:20])cc1 10=20;20,21=21",
"CCCCCCCCCCCCCCCCCC[NH:10]CCCCCCCCCCCCCCCCCC.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCCCCCCCCCCCCCCCC[NH+:10](CCCCCCCCCCCCCCCCCC)[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"O=Cc1cc(Br)ccc1[O:21][H:20].O=P([O-])([O-])C([NH2+]Cc1cccnc1)c1ccccc1[O-:10]>>O=Cc1cc(Br)ccc1[O-:21].O=P([O-])([O-])C([NH2+]Cc1cccnc1)c1ccccc1[O:10][H:20] 10=20;20,21=21",
"Nc1nc2[nH]cnc2c([O-])[n+:21]1[H:20].c1cncc(C(c2ccncc2)(c2ccncc2)[O-:10])c1>>Nc1nc2[nH]cnc2c([O-])[n:21]1.c1cncc(C(c2ccncc2)(c2ccncc2)[O:10][H:20])c1 10=20;20,21=21",
"CCOC(=O)c1cc(-c2ccccc2)n[n:10]c1NCC[NH+]1CCOCC1.NC(=O)c1cc(-c2ccccc2)n[n+:21]([H:20])c1NCC[NH+]1CCOCC1>>CCOC(=O)c1cc(-c2ccccc2)n[n+:10]([H:20])c1NCC[NH+]1CCOCC1.NC(=O)c1cc(-c2ccccc2)n[n:21]c1NCC[NH+]1CCOCC1 10=20;20,21=21",
"CCC[n+]1cccc2cc([O-:10])ccc21.[NH3+]C(Cc1c[nH+]c[nH]1)C(=O)[O:21][H:20]>>CCC[n+]1cccc2cc([O:10][H:20])ccc21.[NH3+]C(Cc1c[nH+]c[nH]1)C(=O)[O-:21] 10=20;20,21=21",
"CC[N+:21]1([H:20])CCOCC1.O=C(c1cc[nH]n1)[O-:10]>>CC[N:21]1CCOCC1.O=C(c1cc[nH]n1)[O:10][H:20] 10=20;20,21=21",
"CC(C)[C@H]1C[NH+:21]([H:20])[C@H](C(=O)[O-])[C@H]1CC(=O)[O-].C[N:10]1[C@@H]2CC[C@H]1[C@H](C(=O)[O-])[C@@H](O)C2>>CC(C)[C@H]1C[NH:21][C@H](C(=O)[O-])[C@H]1CC(=O)[O-].C[N+:10]1([H:20])[C@@H]2CC[C@H]1[C@H](C(=O)[O-])[C@@H](O)C2 10=20;20,21=21",
"CCCC(=O)N[O:21][H:20].CN(CCC[N:10](C)C)C(=O)/C=N/[O-]>>CCCC(=O)N[O-:21].CN(CCC[N+:10](C)(C)[H:20])C(=O)/C=N/[O-] 10=20;20,21=21",
"CCCCCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:10].O=C([O-])CCC(=O)[N:21](OCc1ccccc1)[H:20]>>CCCCCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:10][H:20].O=C([O-])CCC(=O)[N-:21]OCc1ccccc1 10=20;20,21=21",
"O=[N+](c1ccccc1)[O:21][H:20].O=[PH]([O-])C(NCc1ccncc1)c1ccccc1[O-:10]>>O=[N+](c1ccccc1)[O-:21].O=[PH]([O-])C(NCc1ccncc1)c1ccccc1[O:10][H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])CC(C(=O)[O-])[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CC(C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"[NH3+]C(c1cccc([O-:10])c1[O-])P(=O)([O-])[O-].[O-]N=C1C(=NO)CCC/C1=N\[O:21][H:20]>>[NH3+]C(c1cccc([O:10][H:20])c1[O-])P(=O)([O-])[O-].[O-]N=C1C(=NO)CCC/C1=N\[O-:21] 10=20;20,21=21",
"Cn1c(-c2ccccc2[O-:10])[nH+]c2ccccc21.c1cncc(-c2[nH]c3ccccc3[n+:21]2[H:20])c1>>Cn1c(-c2ccccc2[O:10][H:20])[nH+]c2ccccc21.c1cncc(-c2[nH]c3ccccc3[n:21]2)c1 10=20;20,21=21",
"FC(F)C[NH2+:21][H:20].O=C(c1ccncc1)[N-:10]O>>FC(F)C[NH2:21].O=C(c1ccncc1)[N:10](O)[H:20] 10=20;20,21=21",
"CC(C)(C)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])=C1>>CC(C)(C)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)=C1 10=20;20,21=21",
"COCC[N+:21](C)(C)[H:20].OCc1cc(-c2ccccc2)nnc1NCC[N:10]1CCOCC1>>COCC[N:21](C)C.OCc1cc(-c2ccccc2)nnc1NCC[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"CCC[N:10](CCC)CC(=O)Nc1c(C)cccc1C.Cc1nc2nccnc2c[n+:21]1[H:20]>>CCC[N+:10](CCC)(CC(=O)Nc1c(C)cccc1C)[H:20].Cc1nc2nccnc2c[n:21]1 10=20;20,21=21",
"c1cc2c(cc1[NH2:10])CCC2.c1coc(C[NH2+]CC[NH+:21](Cc2ccco2)[H:20])c1>>c1cc2c(cc1[NH2+:10][H:20])CCC2.c1coc(C[NH2+]CC[NH:21]Cc2ccco2)c1 10=20;20,21=21",
"c1cc([N:10]2CCOCC2)ccc1N1CCOCC1.c1ccc(-c2c[nH]c[n+:21]2[H:20])cc1>>c1cc([N+:10]2([H:20])CCOCC2)ccc1N1CCOCC1.c1ccc(-c2c[nH]c[n:21]2)cc1 10=20;20,21=21",
"CC(CC(C#N)(c1ccccc1)c1ccccc1)[N+:21](C)(C)[H:20].Oc1cccc2c1-c1cccc([O-:10])c1-2>>CC(CC(C#N)(c1ccccc1)c1ccccc1)[N:21](C)C.Oc1cccc2c1-c1cccc([O:10][H:20])c1-2 10=20;20,21=21",
"Oc1c[n+:21]([H:20])cc2ccccc12.[O-]c1ccc2ccccc2[n+]1[O-:10]>>Oc1c[n:21]cc2ccccc12.[O-]c1ccc2ccccc2[n+]1[O:10][H:20] 10=20;20,21=21",
"CCOP(=O)(c1ccc([N+](=O)[O-])cc1)[N-:10]c1nccs1.Cc1c[n+:21]([H:20])c2c(cc(C)c3c(C)ccnc32)c1C>>CCOP(=O)(c1ccc([N+](=O)[O-])cc1)[N:10](c1nccs1)[H:20].Cc1c[n:21]c2c(cc(C)c3c(C)ccnc32)c1C 10=20;20,21=21",
"O=S(=O)([O-])c1ccc([O-:10])c2[nH]ncc12.[NH3+]CCCCc1cccc[n+:21]1[H:20]>>O=S(=O)([O-])c1ccc([O:10][H:20])c2[nH]ncc12.[NH3+]CCCCc1cccc[n:21]1 10=20;20,21=21",
"C[N+](C)(C)CCc1ccc([O-:10])cc1.Oc1ccc(/C=N/c2ncc3c(n2)[nH]c[n+:21]3[H:20])cc1>>C[N+](C)(C)CCc1ccc([O:10][H:20])cc1.Oc1ccc(/C=N/c2ncc3c(n2)[nH]c[n:21]3)cc1 10=20;20,21=21",
"C=Cc1cccc[n:10]1.CCC1(C2=CCCCC2)C(=O)NC(=S)[N:21]([H:20])C1=O>>C=Cc1cccc[n+:10]1[H:20].CCC1(C2=CCCCC2)C(=O)NC(=S)[N-:21]C1=O 10=20;20,21=21",
"CC/C=C/CC(=O)N[C@H]1C(=O)N2[C@H]1SC(C)(C)[C@H]2C(=O)[O-:10].O=C(O)c1cccc([OH+:21][H:20])c1>>CC/C=C/CC(=O)N[C@H]1C(=O)N2[C@H]1SC(C)(C)[C@H]2C(=O)[O:10][H:20].O=C(O)c1cccc([OH:21])c1 10=20;20,21=21",
"CC1(C)[C@@H](N)[C@@H]1[NH2+:21][H:20].COC(=O)c1ccc[n:10]c1>>CC1(C)[C@@H](N)[C@@H]1[NH2:21].COC(=O)c1ccc[n+:10]([H:20])c1 10=20;20,21=21",
"O=C([O-])CCC(C(=O)[O-])[NH2+:21][H:20].[O-]B(O)c1cccc([O-:10])c1>>O=C([O-])CCC(C(=O)[O-])[NH2:21].[O-]B(O)c1cccc([O:10][H:20])c1 10=20;20,21=21",
